US07282588B2
N′-(4-{4-[2-[4-(dimethylamino)phenyl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-ethyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea
Following the procedure described for Intermediate 32 with {4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}dimethylamine. Using this product crude and following the procedure described in Intermediate 100 using N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea provided the title product. ESMS [M+H]+: 634.6

reactant | {4-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}dimethylamine | BrC1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)N(C)C)S(=O)(=O)C2=CC=CC=C2 | C21H18BrN3O2S
reactant | N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea | BrC=1C(=NN(C1)CC)C1=CC=C(C=C1)NC(N(C)C)=O | C14H17BrN4O
product | N′-(4-{4-[2-[4-(dimethylamino)phenyl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-ethyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | CN(C1=CC=C(C=C1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)CC)C2=CC=C(C=C2)NC(N(C)C)=O)N1S(=O)(=O)C1=CC=CC=C1)C | C35H35N7O3S
